US06143773
Step 2: 6,6-Dimethyl-3-methylthio-1-(1-methyl-1,2,4-triazol-3-yl)-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one
6,6-Dimethyl-3-methylthio-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one-1-carboximidic acid ethyl ester (1.0 g, 3.37 mmol) was dissolved in ethanol (60 mL) and methyl hydrazine (0.16 g, 3.37 mmol) was added. The solution was heated at 50° C. for 7 h then evaporated to dryness and the residue was taken up in formic acid (20 mL). The solution was heated at 100° C. for 16 h then evaporated to dryness. The residue was dissolved in DCM and washed with saturated K2CO3 solution, then evaporated to dryness. The crude product was chromatographed on silica gel, eluting with ethyl acetate to yield the title compound as a yellow solid (0.15 g, 15%). mp 146-148° C. C14H17N3OS2 requires: C, 54.70; H, 5.77; N, 13.27%. Found: C, 54.55; H, 5.46; N, 13.27%. 1H NMR (250 MHz, CDCl3) δ1.05 (6H, s), 2.44 (2H, s), 2.63 (3H, s), 2.74 (2H, s), 3.96 (3H, s), 7.98 (1H, s). MS (ES+) 308 (M+1).

reactant | 6,6-Dimethyl-3-methylthio-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one-1-carboximidic acid ethyl ester | 3.37 mmol, 1.0 g | C(C)OC(=N)C=1SC(=C2C1CC(CC2=O)(C)C)SC | C14H19NO2S2
reactant | methyl hydrazine | 3.37 mmol, 0.16 g | CNN | CH6N2
reactant | ethanol | 60 mL | C(C)O | C2H6O
product | 6,6-Dimethyl-3-methylthio-1-(1-methyl-1,2,4-triazol-3-yl)-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one | 0.15 g, 15% | CC1(CC(C=2C(=C(SC2SC)C2=NN(C=N2)C)C1)=O)C | C14H17N3OS2
